US08580762B2
Step 8: Synthesis of ethyl 3-(2,2-dichloro-3-oxocyclobutyl)propanoate
A mixture of 4-pentenoic acid ethyl ester (7.07 g, 55.2 mmol) and zinc-copper couple (10.2 g, 140 mmol) in diethyl ether (170 mL) and 1,2-dimethoxyethane (25 mL) was treated dropwise with trichloroacetyl chloride (25 g, 140 mmol). The mixture was stirred at room temperature for 3 days. The reddish heterogeneous reaction mixture was filtered through a pad of celite and the pad was washed with 300 mL Et2O. The filtrate was concentrated to about one half the original volume and the organic phase was washed with two 150 mL portions of H2O and one 150 mL portion of sat NaHCO3. The organic phase was dried over MgSO4, filtered and concentrated to yield a brown liquid. The material was purified by vacuum distillation (90-100° C. @0.044 torr) to yield the title compound (10.49 g, 80%) as a light yellow liquid: GC purity 95.8% (ret. time, 4.92 min).

reactant | 4-pentenoic acid ethyl ester | 55.2 mmol, 7.07 g | C(C)OC(CCC=C)=O | C7H12O2
reactant | trichloroacetyl chloride | 140 mmol, 25 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | diethyl ether | 170 mL | C(C)OCC | C4H10O
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
catalyst | zinc-copper couple | 140 mmol, 10.2 g | [Cu].[Zn]
product | ethyl 3-(2,2-dichloro-3-oxocyclobutyl)propanoate | 10.49 g, 80% | ClC1(C(CC1=O)CCC(=O)OCC)Cl | C9H12Cl2O3
